US05665747
2-Acetyl-5-(2-methoxyethyl)-4-methylthiazole
From 5-(2-methoxyethyl)-4-methylthiazole and ethyl acetate, following the procedure of Preparation 1.

reactant | 5-(2-methoxyethyl)-4-methylthiazole | COCCC1=C(N=CS1)C | C7H11NOS
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Acetyl-5-(2-methoxyethyl)-4-methylthiazole | C(C)(=O)C=1SC(=C(N1)C)CCOC | C9H13NO2S
